US07678795B2
(1S,8R)-5-(2-Chloro-4-fluoro-5-methoxy-phenyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
yellow solid. MS (EI): 347.1 (M+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, [2-(2-Chloro-4-fluoro-5-methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | [2-(2-Chloro-4-fluoro-5-methoxy-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=C(C(=C1)OC)F)Cl | C11H13ClFO5P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-5-(2-Chloro-4-fluoro-5-methoxy-phenyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | ClC1=C(C=C(C(=C1)F)OC)C1=NN=C2[C@]3(CC[C@@H](C2=C1)C3(C)C)C | C19H20ClFN2O
